US07915261B2
A 4 M hydrogen chloride/EtOAc solution (0.88 ml) and platinum oxide (100 mg) were added to an ethanol (25 ml) solution of tert-butyl 4-[(E)-2-pyridin-4-ylvinyl]piperidine-1-carboxylate (1.02 g), followed by stirring in the presence of hydrogen (3.5 atm) for 24 hours. This was purged with argon, diluted with methanol, filtered through Celite, and concentrated under reduced pressure. The solid precipitated was washed with EtOAc/hexane, and dried under reduced pressure to obtain tert-butyl 4-(2-piperidin-4-ylethyl)piperidine-1-carboxylate hydrochloride (850 mg) as a white solid.

reactant | hydrogen chloride EtOAc | 4 M, 0.88 ml | Cl.CCOC(=O)C
reactant | tert-butyl 4-[(E)-2-pyridin-4-ylvinyl]piperidine-1-carboxylate | 1.02 g | N1=CC=C(C=C1)/C=C/C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 100 mg | [Pt]=O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | tert-butyl 4-(2-piperidin-4-ylethyl)piperidine-1-carboxylate hydrochloride | 850 mg | Cl.N1CCC(CC1)CCC1CCN(CC1)C(=O)OC(C)(C)C | InChI=1S/C17H32N2O2.ClH/c1-17(2,3)21-16(20)19-12-8-15(9-13-19)5-4-14-6-10-18-11-7-14;/h14-15,18H,4-13H2,1-3H3;1H
